US07211573B2
a) (6R,7S)-7-Amino-6-ethyl-2-fluoro-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one
The title compound was prepared in quantitative yield by hydrogenation of (−)-(6R,7S)-7-dibenzylamino-6-ethyl-2-fluoro-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one in methanol with Pd/C (10%), MS m/e (%): 225.3 (M+H+, 100).

reactant | (−)-(6R,7S)-7-dibenzylamino-6-ethyl-2-fluoro-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one | C(C1=CC=CC=C1)N([C@H]1[C@H](OC2=C(NC1=O)C=C(C=C2)F)CC)CC2=CC=CC=C2 | C25H25FN2O2
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | (6R,7S)-7-Amino-6-ethyl-2-fluoro-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one | quantitative yield | N[C@H]1[C@H](OC2=C(NC1=O)C=C(C=C2)F)CC | C11H13FN2O2
